US08304419B2
Step A: N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-4-formyl-1H-imidazole-2-carboxamide
A solution of N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-4-(hydroxymethyl)-1H-imidazole-2-carboxamide (0.40 g, 0.92 mmol) and MnO2 (0.80 g, 9.2 mmol) in CH2Cl2 (10 mL) was stirred at RT for 2 h. The solution was filtered through celite and evaporated to provide the crude title compound which was used without further purification.

reactant | N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-4-(hydroxymethyl)-1H-imidazole-2-carboxamide | 0.92 mmol, 0.40 g | ClC1=C(C(=C(C=C1)CNC(=O)C=1NC=C(N1)CO)F)OC1=CC(=CC(=C1)C#N)Cl | C19H13Cl2FN4O3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 9.2 mmol, 0.80 g | O=[Mn]=O
product | N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-4-formyl-1H-imidazole-2-carboxamide | ClC1=C(C(=C(C=C1)CNC(=O)C=1NC=C(N1)C=O)F)OC1=CC(=CC(=C1)C#N)Cl | C19H11Cl2FN4O3
